US03979430
1.0 Gm. of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d] cyclohepten-2-yl)propionic acid methyl ester is dissolved in 10 ml. of acetone and to the solution is added 5 ml. of N-hydrochloric acid. The mixture is refluxed for one hour, then cooled, diluted with water, and extracted with ethyl acetate. The extract is washed with aqueous sodium carbonate and water, then dried and evaporated to afford a 75% yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid methyl ester, as an oil which slowly crystallized, m.p. 37°-39°C., NMR: δCDCl 3 1.55(d), 3.67(s), 3.83(g), 7.04(s) ppm. Use of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d] cyclohepten-2-yl)acetic acid methyl ester gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid methyl ester, m.p. 67°-69°C.

reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d] cyclohepten-2-yl)propionic acid methyl ester | COC(C(C)C1=CC2=C(C3(C4=C(C=C2)C=CC=C4)OCCO3)C=C1)=O | C21H20O4
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid methyl ester | 75% yield | COC(C(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1)=O | C19H16O3
